### PR TITLE
Add semiring instance for nat

### PR DESCRIPTION
**Pull request by proux01**
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] ~added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] ~I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).~ (no semirings in MC1)

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -6678,3 +6678,15 @@ HB.instance Definition _ := ComRing_hasMulInverse.Build bool
...
+
+HB.instance Definition _ := isNmodule.Build nat addnA addnC add0n.
+HB.instance Definition _ := Nmodule_isComSemiRing.Build nat
+  mulnA mulnC mul1n mulnDl mul0n erefl.
+
+HB.instance Definition _ (V : nmodType) (x : V) :=
+  isSemiAdditive.Build nat V (natmul x) (mulr0n x, mulrnDr x).
+
+HB.instance Definition _ (R : semiRingType) :=
+  isMultiplicative.Build nat R (natmul 1) (natrM R, mulr1n 1).
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:6692]: I guess, both left and right partial applications of `natmul` are homomorphisms. Can we declare both instances? (It has been done for `GRing.mul`. See `mull_fun` and `mulr_fun`.)

Comment (proux01) [reply mathcomp/algebra/ssralg.v:6692]: There can be only a single instance on a given key (here `GRing.natmul`), what enables to declare two instances for function multiplication is the availability of two different keys `mull_fun` and `mulr_fun`.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:6692]: Now I think defining an alias only for the right partial application `_ *+ n` and declaring the additive function instance for it is reasonable. The same argument applies to `intmul`. So it can be done in another PR.

Comment (proux01) [reply mathcomp/algebra/ssralg.v:6692]: Indeed, `intmul` is similar. I'm not sure I get all the details (in particular the name and use of that alias), can I let you do that other PR?

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:6692]: I can do that.

File: mathcomp/algebra/ssralg.v [hunk 2]
```diff
@@ -6678,3 +6678,24 @@ HB.instance Definition _ := ComRing_hasMulInverse.Build bool
...
+
+Lemma natr0E : 0 = 0%N. Proof. by []. Qed.
+Lemma natr1E : 1 = 1%N. Proof. by []. Qed.
+Lemma natrnE n : n%:R = n.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:6696]: As I said in https://github.com/math-comp/mczify/pull/47#discussion_r1223595004, the similar lemma in `ssrint.v` is called `intz`. I think these two things should follow the same naming scheme.

I guess you can simplify the proof of `intz` thanks to this lemma.

**Comment by pi8027** [comment]
I guess this PR is the right place to add homomorphism instances for `Posz`.

**Review by pi8027 — APPROVED** [review]
One nitpick below, but looks good to me.

**Comment by proux01** [comment]
> I guess this PR is the right place to add homomorphism instances for `Posz`.

Indeed, done (but now I need to fix Coqeal).

**Comment by proux01** [comment]
@pi8027 CI green, note that in order to merge this, the multinomials overlay math-comp/multinomials#81 should be merged first as it is backward compatible.

**Comment by proux01** [comment]
@pi8027 overlay removed, CI remains green
